US05840732
ix) Synthesis of 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-9-benzyl-1,1-dioxo-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione hydrochloride
To a solution of 1.95 g (3.91 mmol) of 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-1,1-dioxo-9-benzyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione in 20 ml of methanol, 0.5 ml (6 mmol) of concentrated hydrochloric acid was added. After the reaction mixture was concentrated to dryness, diethyl ether was added to the residue. The resulting crystal was collected by filtration and dried to yield 1.90 g (90.8%, light white crystal) of the desired product.

reactant | 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-1,1-dioxo-9-benzyl-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 3.91 mmol, 1.95 g | N=1C=CN2C1C=CC=C2SCCCCN2C(N1C(S(CCC1)(=O)=O)=C(C2=O)CC2=CC=CC=C2)=O | C25H26N4O4S2
reactant | hydrochloric acid | 6 mmol, 0.5 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 7-[4-(imidazo[1,2-a]pyridin-5-ylthio)-butyl]-9-benzyl-1,1-dioxo-3,4-dihydro-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione hydrochloride | Cl.N=1C=CN2C1C=CC=C2SCCCCN2C(N1C(S(CCC1)(=O)=O)=C(C2=O)CC2=CC=CC=C2)=O | InChI=1S/C25H26N4O4S2.ClH/c30-23-20(18-19-8-2-1-3-9-19)24-29(14-7-17-35(24,32)33)25(31)28(23)13-4-5-16-34-22-11-6-10-21-26-12-15-27(21)22;/h1-3,6,8-12,15H,4-5,7,13-14,16-18H2;1H
